US07282588B2
Preparation of N-[4-(4-{2-[1-(N,N-dimethylglycyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1-ethyl-1H-pyrazol-3-yl)phenyl]-N′-phenylurea
To a solution of N-(4-{1-ethyl-4-[2-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N′-phenylurea (0.23 mmol) was in N,N-dimethylformamide (3.0 mL) was added EDC (0.39 mmol), HOBt (0.39 mmol), triethylamine (1.38 mmol) followed by N,N dimethylglycine (0.39 mmol). The reaction stirred at room temp for 16 h. The reaction was poured into ethyl acetate and washed saturated sodium bicarbonate (2×10 mL). The organic layer was evaporated and purification of the residue by Gilson reverse phase HPLC provided the title product. ESMS [M+H]+: 589.4

reactant | N-(4-{1-ethyl-4-[2-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N′-phenylurea | 0.23 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C=2CCNCC2)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2 | C30H29N7O
reactant | EDC | 0.39 mmol
reactant | HOBt | 0.39 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 1.38 mmol | C(C)N(CC)CC | C6H15N
reactant | N,N dimethylglycine | 0.39 mmol | CN(CC(=O)O)C | C4H9NO2
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(4-{2-[1-(N,N-dimethylglycyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1-ethyl-1H-pyrazol-3-yl)phenyl]-N′-phenylurea | CN(CC(=O)N1CCC(=CC1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)CC)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2)N1)C | C34H36N8O2
